US08802659B2
5-(4-tert-Butyl-cyclohexyloxy)-benzothiazole-2-aldehyde
Selenium dioxide (180 mg, 1.6 mmol) was combined with 1,4-Dioxane (5 mL, 60 mmol) and Water (0.5 mL, 30 mmol) at room, temperature open to the atmosphere. The mixture was then treated with 5-(4-tert-Butyl-cyclohexyloxy)-2-methyl-benzothiazole (250 mg, 0.82 mmol) and resulting mixture was heated to 65° C. for 2 hours. The heat was increased to 90° C. and 4 additional eq. of SeO2 were added. Reaction was stirred for additional 5 hours. LCMS shows nearly complete conversion. Reaction become dark and solids formed in reaction mixture. Reaction was cooled to RT and allowed to stand over night. Solids were removed via filtration. Concentrated to dryness then purified directly via column chromatography using a gradient of 0-40% Ethylacetate/hexane to give the title compound as a dark solid.

reactant | Selenium dioxide | 1.6 mmol, 180 mg | [Se](=O)=O | O2Se
reactant | 1,4-Dioxane | 60 mmol, 5 mL | O1CCOCC1 | C4H8O2
reactant | Water | 30 mmol, 0.5 mL | O | H2O
reactant | 5-(4-tert-Butyl-cyclohexyloxy)-2-methyl-benzothiazole | 0.82 mmol, 250 mg | C(C)(C)(C)C1CCC(CC1)OC=1C=CC2=C(N=C(S2)C)C1 | C18H25NOS
product | 5-(4-tert-Butyl-cyclohexyloxy)-benzothiazole-2-aldehyde | C(C)(C)(C)C1CCC(CC1)OC=1C=CC2=C(N=C(S2)C=O)C1 | C18H23NO2S
